US09353075B2
Step 3. Preparation of ethyl (2S*)-2-(tert-butoxy-carbonylamino)-3-oxo-pentanoate
In a pear flask, at rt, to a solution of ethyl (2S*)-2-(dibenzylamino)-3-oxo-pentanoate (1.3 g, 3.83 mmol) in EtOH (90 ml), di-tert-butyl dicarbonate (1.67 g, 7.66 mmol) was added. The mixture was passed through the HCube® hydrogenator flow reactor, using 10% Pd(OH)2/C as catalyst [flow:1.0 mL/min, P=1.0 bar, T=70° C.]. After evaporation of the solvent, the crude product was purified by column chromatography using a Teledyne ISCO apparatus, eluting with Cy:AcOEt (from 90:10 to 50:50) to afford the title product (0.546 g, 55% over 2 steps), as a colorless oil. MS (ESI) m/z: 282 [M−Na]+; (ESI) m/z: 258 [M−H]−. 1H NMR (DMSO-d6) δ 0.93 (t, J=7.20 Hz, 3H), 1.20 (t, J=7.09 Hz, 3H), 1.39 (s, 9H), 2.60 (qd, J=2.16, 7.10 Hz, 2H), 4.07-4.22 (m, 2H), 4.91 (d, J=8.00 Hz, 1H), 7.51 (d, J=7.94 Hz, 1H).

reactant | ethyl (2S*)-2-(dibenzylamino)-3-oxo-pentanoate | 3.83 mmol, 1.3 g | C(C1=CC=CC=C1)N([C@H](C(=O)OCC)C(CC)=O)CC1=CC=CC=C1 | C21H25NO3
reactant | di-tert-butyl dicarbonate | 7.66 mmol, 1.67 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 90 ml | CCO | C2H6O
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | ethyl (2S*)-2-(tert-butoxy-carbonylamino)-3-oxo-pentanoate | 0.546 g, 55% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC)C(CC)=O | C12H21NO5
